US06071947
To a solution of 2,2,6,6-tetramethylpiperidine (11.0 g; 78 mmols) in THF (170 ml), at -78° C. and under nitrogen, a 1.6M solution of BuLi (56.1 ml; 89.7 mmols) in hexane is added slowly in order to maintain the temperature below -65° C. The mixture is stirred at -75° C. for 10 min and is then warmed to 0° C. within 30 min. After cooling again to -78° C., a solution of 1-tert-butoxycarbonylindole (15.6 g; 72 mmols) in THF (300 ml) is added, keeping the temperature below -65° C. The mixture is stirred 1 hour at -75° C. and a solution of trimrthyl borate (7.5 g; 72 mmols) in THF (200 ml) is added dropwise. The reaction is allowed to warm up to room temperature overnight. A 0.25N solution of Hcl (200 ml) is added and the THF is removed under vacuum. The residue is extracted with ethyl ether (3×150 ml) and the combined organic phases are washed with water (2×100 ml) and dried over sodium sulphate. The solution is then concentrated, cooled to 0° C. and filtered to obtain crystalline (1-tert-butoxycarbonylindol-2-yl)boronic acid (6.95 g; 26.6 mmols). Yield: 37%.

reactant | 2,2,6,6-tetramethylpiperidine | 78 mmols, 11.0 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | BuLi | 89.7 mmols, 56.1 ml | [Li]CCCC
reactant | 1-tert-butoxycarbonylindole | 72 mmols, 15.6 g | C(C)(C)(C)OC(=O)N1C=CC2=CC=CC=C12 | C13H15NO2
reactant | borate | 72 mmols, 7.5 g | B([O-])([O-])[O-]
solvent | THF | 170 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | (1-tert-butoxycarbonylindol-2-yl)boronic acid | 26.6 mmols, 6.95 g, Yield: 37% | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)B(O)O | C13H16BNO4
